US04906285
Preparation of isopropylammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)Oxy]benzoate (Compound No. 17)
2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid (2.0 g) and isopropylamine (1.0 9) were dissolved in 30 ml of THF, and the mixture was stirred at room temperature for 12 hours. The reaction solution was concentrated, and crystals thereby precipitated, were washed with hexane to obtain the above identified compound as white crystals (1.9 g). (Melting point: 99°-102° C.)

reactant | 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid | 2.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C19H18N4O8
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | isopropylammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)Oxy]benzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)[O-])C(=CC=C1)OC1=NC(=CC(=N1)OC)OC.C(C)(C)[NH3+] | InChI=1S/C19H18N4O8.C3H9N/c1-26-12-8-13(27-2)21-18(20-12)30-10-6-5-7-11(16(10)17(24)25)31-19-22-14(28-3)9-15(23-19)29-4;1-3(2)4/h5-9H,1-4H3,(H,24,25);3H,4H2,1-2H3
